US09340549B2
A microwave vial was charged with (S)-3-(4-(2-bromo-5-fluoropyridin-4-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (0.060 g, 0.136 mmol), 2-(tributylstannyl)pyrimidine (commercially available from Frontier Scientific, Inc., Logan Utah) (0.067 mL, 0.204 mmol), lithium chloride (0.012 g, 0.272 mmol), copper (I) iodide (2.59 mg, 0.014 mmol), and DMF (2.0 mL). Tetrakis(triphenylphosphine)palladium(0) (0.016 g, 0.014 mmol) was added, the system was purged with argon, and the tube was sealed. The resulting mixture was stirred at 120° C. in a microwave for 1 hour. The reaction mixture was then concentrated to afford an orange oil which was purified using column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-10% MeOH-EtOAc) to afford (S)-3-(4-(5-fluoro-2-(pyrimidin-2-yl)pyridin-4-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (0.012 g, 0.027 mmol, 20% yield) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.93 (s, 3H), 1.66 (s, 3H), 5.53 (s, 1H), 7.10-7.54 (m, 6H), 7.56-7.89 (m, 5H), 8.10-9.41 (m, 3H). m/z (ESI) 441 (M+H)+.

reactant | (S)-3-(4-(2-bromo-5-fluoropyridin-4-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.136 mmol, 0.060 g | BrC1=NC=C(C(=C1)C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O)F | C22H18BrFN2O2
reactant | 2-(tributylstannyl)pyrimidine | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
reactant | lithium chloride | 0.272 mmol, 0.012 g | [Cl-].[Li+]
catalyst | copper (I) iodide | 0.014 mmol, 2.59 mg | [Cu]I
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.014 mmol, 0.016 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | (S)-3-(4-(5-fluoro-2-(pyrimidin-2-yl)pyridin-4-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.027 mmol, 0.012 g, 20% yield | FC=1C(=CC(=NC1)C1=NC=CC=N1)C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O | C26H21FN4O2
